US03954757
A solution of 11.7 g of indole in 100 ml of methanol is added portionwise to a stirred solution of 50 g potassium iodide and 25.4 g of iodine in 150 ml of water at room temperature. This mixture is further treated with a solution of 13 g of 1-methyl-1,4,5,6-tetrahydro-2-pyrimidinethiol in 150 ml of methanol. The reaction mixture is then stirred at room temperature for 2 hours, filtered and the filtrate concentrated to one-fourth of the original volume and cooled. A crystalline precipitate is formed. This is filtered and recrystallised from a mixture of methanol, ethyl acetate and ether to yield 3-(1-methyl-1,4,5,6-tetrahydro-2-pyrimidinylthio)-indole hydriodide which melts at 207°.

reactant | indole | 11.7 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | potassium iodide | 50 g | [I-].[K+]
reactant | iodine | 25.4 g | II | I2
reactant | 1-methyl-1,4,5,6-tetrahydro-2-pyrimidinethiol | 13 g | CN1C(=NCCC1)S | C5H10N2S
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 150 ml | O | H2O
solvent | methanol | 150 ml | CO | CH4O
product | 3-(1-methyl-1,4,5,6-tetrahydro-2-pyrimidinylthio)-indole hydriodide | I.CN1C(=NCCC1)SC1=CNC2=CC=CC=C12 | InChI=1S/C13H15N3S.HI/c1-16-8-4-7-14-13(16)17-12-9-15-11-6-3-2-5-10(11)12;/h2-3,5-6,9,15H,4,7-8H2,1H3;1H
